US06288261B1
4′-(2-hydroxyethoxy)[1,1′-biphenyl]-4-carbonitrile
To a solution of 4′-hydroxy-4-biphenylcarbonitrile (1.014 g, 5.19 mmol) in 10 mL DMF was added potassium carbonate (2.15 g, 15.6 mmol, 3 eq.) and 2-bromoethylacetate. After two hours at 50° C., the reaction mixture was cooled to room temperature, diluted with 50 mL EtOAc, washed with H2O (3×10 mL), dried (Na2SO4), filtered, and concentrated to provide a white solid. The solid was dissolved in 20 mL MeOH and 5 mL H2O and potassium carbonate (2.15 g, 15.6 mmol) were added. After 30 minutes, the MeOH was evaporated and the crude reaction was taken up in EtOAc and washed with H2O (10 mL×3), dried (Na2SO4), filtered, concentrated, and purified on silica gel to provide 0.967g (78%) of the desired compound.

reactant | 4′-hydroxy-4-biphenylcarbonitrile | 5.19 mmol, 1.014 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H9NO
reactant | potassium carbonate | 15.6 mmol, 2.15 g, 3 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethylacetate | BrCCOC(C)=O | C4H7BrO2
reactant | H2O | 5 mL | O | H2O
reactant | potassium carbonate | 15.6 mmol, 2.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 20 mL | CO | CH4O
product | 4′-(2-hydroxyethoxy)[1,1′-biphenyl]-4-carbonitrile | 0.967g, 78% | OCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C15H13NO2
